US06686384B2
(2,6-Dichlorophenyl)-(5,6-difluoro-1H-benzimidazol-2-yl)amine hydrochloride
2,6-Dichlorophenyl isothiocyanate (0.3 g) and 4,5-difluoro-1,2-phenylenediamine (0.21 g) were stirred at RT for 4 h in THF (15 ml) and then concentrated and dried in a high vacuum. The foamy residue was dissolved in ethanol and heated to 70° C. with stirring. Methyl iodide (0.73 ml) was then added dropwise.

reactant | 2,6-Dichlorophenyl isothiocyanate | 0.3 g | ClC1=C(C(=CC=C1)Cl)N=C=S | C7H3Cl2NS
reactant | 4,5-difluoro-1,2-phenylenediamine | 0.21 g | FC1=CC(=C(C=C1F)N)N | C6H6F2N2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (2,6-Dichlorophenyl)-(5,6-difluoro-1H-benzimidazol-2-yl)amine hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)NC1=NC2=C(N1)C=C(C(=C2)F)F | InChI=1S/C13H7Cl2F2N3.ClH/c14-6-2-1-3-7(15)12(6)20-13-18-10-4-8(16)9(17)5-11(10)19-13;/h1-5H,(H2,18,19,20);1H
